US04346093
The condensation of 5-amino-6-(2,3-epoxypropoxy)-4-nitroindane and N-benzyl-2-(2-benzyloxyphenoxy)-ethylamine gives 5-amino-6-{3-[N-benzyl-2-(2-benzyloxyphenoxy)-ethylamino]-2-hydroxypropoxy}-4-nitroindane in the form of an oil. This compound, in the form of its hydrochloride, is hydrogenated and hydrogenolytically debenzylated in methanolic solution in the presence of 10% palladium-charcoal to give 4,5-diamino-6-{2-hydroxy-3-[2-(2-hydroxyphenoxy)-ethylamino]-propoxy}-indane hydrochloride; m.p. 193°-195° C.

reactant | 5-amino-6-(2,3-epoxypropoxy)-4-nitroindane | NC=1C(=C2CCCC2=CC1OCC1CO1)[N+](=O)[O-] | C12H14N2O4
reactant | N-benzyl-2-(2-benzyloxyphenoxy)-ethylamine | C(C1=CC=CC=C1)NCCOC1=C(C=CC=C1)OCC1=CC=CC=C1 | C22H23NO2
product | 5-amino-6-{3-[N-benzyl-2-(2-benzyloxyphenoxy)-ethylamino]-2-hydroxypropoxy}-4-nitroindane | NC=1C(=C2CCCC2=CC1OCC(CN(CC1=CC=CC=C1)CCOC1=C(C=CC=C1)OCC1=CC=CC=C1)O)[N+](=O)[O-] | C34H37N3O6
